US04032647
A mixture of 20.0 g (0.2 mole) of 3-thiolen-2-one [R. T. Hawkins, J. Heterocyclic Chem., 11 291-4 (1974)] 65.5 g (0.2 mole) of 1-bromo-9,12,15-octadecatriene, and 4.8 g (0.2 mole) of sodium hydride in benzene is refluxed with stirring for 24 hours after which the solvent is removed, and the product distilled to give 2-(9,12,15-octadecatrienyloxy)thiophene.

reactant | 3-thiolen-2-one | 0.2 mole, 20.0 g | S1C(C=CC1)=O | C4H4OS
reactant | 1-bromo-9,12,15-octadecatriene | BrCCCCCCCCC=CCC=CCC=CCC | C18H31Br
reactant | sodium hydride | 0.2 mole, 4.8 g | [H-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(9,12,15-octadecatrienyloxy)thiophene | C(CCCCCCCC=CCC=CCC=CCC)OC=1SC=CC1 | C22H34OS
